US07696223B2
e) {[2-(5-Bromo-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid
A mixture of 2-(5-bromo-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (49 mg, 0.13 mmol) and glycine (193 mg, 2.57 mmol) in 0.5 M sodium methoxide/methanol (4.9 mL) was refluxed for 36 h before it was cooled to room temperature and concentrated in vacuo. It was dissolved in water (15 mL) and extracted twice with dichloromethane. The remaining aqueous layer was acidified to pH=3 with 1N HCl (2 mL). The solid precipitate was filtered, washed with water and dried in vacuo to give the title compound as a yellow solid (13 mg): 1H NMR (DMSO-d6, 200 MHz): δ=13.34 (br s, 1H), 12.83 (br s, 1H), 9.46 (t, 1H), 9.30 (d, 1H), 8.91 (m, 2H), 8.73 (m, 1H), 4.02 (d, J=5.8 Hz, 2H); MS: (+) m/z 408.93, 410.87 (M+1, 79Br/81Br).

reactant | 2-(5-bromo-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.13 mmol, 49 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C=2C=NC=C(C2)Br)O | C14H10BrN3O3S
reactant | glycine | 2.57 mmol, 193 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 4.9 mL | C[O-].[Na+].CO
product | {[2-(5-Bromo-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid | 13 mg | BrC=1C=C(C=NC1)C=1SC2=C(C=NC(=C2O)C(=O)NCC(=O)O)N1 | C14H9BrN4O4S
